US08207177B2
Step b: 6-chloro-1,1-dimethylindane
Concentrated sulfuric acid (45.0 mL) was added to water (5.00 mL) carefully and allowed to cool down to room temperature. 1-(4-chlorophenyl)-3-methylbutan-2-ol (17.8 g, 0.0896 mol) was added portionwise over 30 minutes. After the addition, the mixture was left to stir at room temperature for 2 hours. The mixture was then poured onto ice and the aqueous layer was extracted with ether. The organic phase was washed water and then dried over magnesium sulphate and concentrated to yield crude product. The residue was purified by filtration through a plug of silica, eluting with dichloromethane, to yield the product, 12.6 g (78%). 1H-NMR (400 MHz, CDCl3, δ): 7.10 (m, 3H), 2.85 (t, J=7.2 Hz, 1H), 1.94 (t, J=7.2 Hz, 1H), 1.25 (s, 6H).

reactant | sulfuric acid | 45.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | 1-(4-chlorophenyl)-3-methylbutan-2-ol | 0.0896 mol, 17.8 g | ClC1=CC=C(C=C1)CC(C(C)C)O | C11H15ClO
solvent | water | 5.00 mL | O | H2O
product | 6-chloro-1,1-dimethylindane | ClC1=CC=C2CCC(C2=C1)(C)C | C11H13Cl
